US03950525
B. 4-Hydroxybenzothieno[3,2-d]pyrimidine (VI; X = H)
To a solution of 2-carbomethoxy-3-aminobenzothiophene (2.07 g.; 0.02 mole) and potassium t-butoxide (2.24 g.; 0.02 mole) in dimethylsulfoxide (30 ml.) is added an excess of formamide (ca 5 ml./g. of 2-carbomethoxy-3-aminobenzothiophene). This is heated to 90° C. until the reaction is complete as evidenced by thin layer chromatography (~30 minutes). The solution is cooled, poured into water, acidified with glacial acetic acid and the resultant solid is filtered. Washing with isopropyl alcohol and then ether yields a white solid, 1.76 g., m.p. 300°-301° C.

reactant | 2-carbomethoxy-3-aminobenzothiophene | 0.02 mole, 2.07 g | C(=O)(OC)C=1SC2=C(C1N)C=CC=C2 | C10H9NO2S
reactant | potassium t-butoxide | 0.02 mole, 2.24 g | CC(C)([O-])C.[K+]
reactant | formamide | ca 5 ml | C(=O)N | CH3NO
reactant | water | O | H2O
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-Hydroxybenzothieno[3,2-d]pyrimidine | OC=1C2=C(N=CN1)C1=C(S2)C=CC=C1 | C10H6N2OS
